US08168794B2
To a solution of (3aR,7aS)-5-benzyl 3-tert-butyl 2-oxotetrahydrooxazolo[4,5-c]pyridine-3,5(2H,6H)-dicarboxylate in a mixture of EtOH and EtOAc (1:1, 0.07 M) was added Pd/C (10% by weight) and the reaction was stirred under a hydrogen balloon for 15 h. The solution was then filtered through a pad of Celite and the filtrate was concentrated to dryness to give a clear oil. To a solution of (3aR,7aS)-tert-butyl 2-oxohexahydrooxazolo[4,5-c]pyridine-3(2H)-carboxylate in i-PrOH (0.12 M) was added 4-chloro-3-nitropyridine (1.2 equiv.) and DIEA (4.0 equiv.) The reaction was heated to 75° C. for 2 h, then cooled to room temperature and concentrated under vacuo. The crude mixture was diluted with EtOAc, water was added, the organic layer was extracted, washed with brine, dried with Na2SO4, and concentrated. The crude was purified via silica gel column chromatography eluting with EtOAc (100%) to yield (3aR,7aS)-tert-butyl 5-(3-nitropyridin-4-yl)-2-oxohexahydrooxazolo[4,5-c]pyridine-3(2H)-carboxylate as a yellow foam in 89% yield). LCMS (m/z): 365.1 (MH+), Rt=1.79 min.

reactant | (3aR,7aS)-5-benzyl 3-tert-butyl 2-oxotetrahydrooxazolo[4,5-c]pyridine-3,5(2H,6H)-dicarboxylate | O=C1O[C@@H]2[C@@H](CN(CC2)C(=O)OCC2=CC=CC=C2)N1C(=O)OC(C)(C)C | C19H24N2O6
reactant | (3aR,7aS)-tert-butyl 2-oxohexahydrooxazolo[4,5-c]pyridine-3(2H)-carboxylate | O=C1O[C@@H]2[C@@H](CNCC2)N1C(=O)OC(C)(C)C | C11H18N2O4
reactant | 4-chloro-3-nitropyridine | 1.2 equiv. | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | DIEA | 4.0 equiv. | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOH | CCO | C2H6O
solvent | EtOAc | 0.07 M | CCOC(=O)C | C4H8O2
solvent | i-PrOH | 0.12 M | CC(C)O | C3H8O
catalyst | Pd/C | [Pd] | Pd
product | (3aR,7aS)-tert-butyl 5-(3-nitropyridin-4-yl)-2-oxohexahydrooxazolo[4,5-c]pyridine-3(2H)-carboxylate | 89% yield | [N+](=O)([O-])C=1C=NC=CC1N1C[C@@H]2[C@H](CC1)OC(N2C(=O)OC(C)(C)C)=O | C16H20N4O6
